US07138425B2
a) 2-(3-Nitro-6-methoxyphenyl)-5-(4-chlorophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-6-methoxyphenyl)-5-bromobenzoxazole (400 mg, 1.14 mmol) and 4-chlorophenylboronic acid (269 mg, 1.71 mmol) the subtitle compound was obtained (323 mg, 74%). The product was used directly in the next step without purification.

reactant | 2-(3-nitro-6-methoxyphenyl)-5-bromobenzoxazole | 1.14 mmol, 400 mg | [N+](=O)([O-])C=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 4-chlorophenylboronic acid | 1.71 mmol, 269 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 2-(3-Nitro-6-methoxyphenyl)-5-(4-chlorophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)Cl | C20H13ClN2O4
